US07994196B2
4-(Morpholin-4-ylcarbonyl)-4-phenyl-1-piperidinecarboxylic acid tert-butyl ester (907 mg) was dissolved in methylene chloride (6 ml) and trifluoroacetic acid (1 ml) was added thereto. The mixture was stirred at room temperature for 10 hr. After completion of the reaction, a 10% aqueous sodium hydroxide solution was added, and the mixture was extracted three times with methylene chloride. The organic layer was dried and the solvent was evaporated under reduced pressure to give 4-(morpholin-4-ylcarbonyl)-4-phenylpiperidine (600 mg, yield 91%).

reactant | 4-(Morpholin-4-ylcarbonyl)-4-phenyl-1-piperidinecarboxylic acid tert-butyl ester | 907 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C(=O)N1CCOCC1 | C21H30N2O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-(morpholin-4-ylcarbonyl)-4-phenylpiperidine | 600 mg, yield 91% | N1(CCOCC1)C(=O)C1(CCNCC1)C1=CC=CC=C1 | C16H22N2O2
